US07192684B2
Under a nitrogen atmosphere and with ice cooling, a solution of 293 g diethyl oxalate in 500 ml tetrahydrofuran was slowly added dropwise to a Grignard reagent solution which had been prepared from 540 g of chloromethyltrimethylsilane, 107 g of magnesium and 2,000 ml of tetrahydrofuran. The solution was stirred for 3 hours at room temperature, after which an aqueous solution of ammonium chloride was added for hydrolysis. Usual work-up procedure including extraction, washing, drying and concentration yielded 525 g (crude yield 95%) of ethyl 2-hydroxy-3-trimethylsilyl-2-trimethylsilylmethylpropionate.

reactant | diethyl oxalate | 293 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | chloromethyltrimethylsilane | 540 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | magnesium | 107 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2,000 ml | O1CCCC1 | C4H8O
product | ethyl 2-hydroxy-3-trimethylsilyl-2-trimethylsilylmethylpropionate | 525 g | OC(C(=O)OCC)(C[Si](C)(C)C)C[Si](C)(C)C | C12H28O3Si2
